* SKY130 CTLE - source degeneration with capacitors

.lib /Users/dwitisuchak/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt

VDD vdd 0 1.8

* Differential input
VINP inp 0 DC 1.2 AC 0.5
VINN inn 0 DC 1.2 AC -0.5

* Resistive loads
RDP vdd outp 1k
RDN vdd outn 1k

* NMOS differential pair
XMP outp inp srcp 0 sky130_fd_pr__nfet_01v8 W=10 L=0.15
XMN outn inn srcn 0 sky130_fd_pr__nfet_01v8 W=10 L=0.15

* Source degeneration
RS1 srcp tail 1k
RS2 srcn tail 1k

* Degeneration capacitors
CD1 srcp tail 0.5p
CD2 srcn tail 0.5p

* Tail current
ITAIL tail 0 DC 100u

.op



.end
